US07157488B2
1-Phenyl-1H-indole-6-carbaldehyde
Combine in a sealed tube 1H-indole-6-carbaldehyde 0.9 g, 6.2 mmol), copper(I) trifluoromethanesulfate—complex (0.2 g, 0.3 mmol), phenanthroline (1.3 g, 6.2 mmol), transdibenzylidenacetone (0.1 g, 0.3 mmol), cesium carbonate (2.6 g, 7.9 mmol) and iodobenzene (1.6 ml, 14.3 mmol) in xylene (40 ml). Heat at about 110° C. After 24 hours, cool to room temperature, dilute with dichloromethane and saturated ammonium chloride. Separate the layer and Extract the aqueous layer with dichloromethane. Combine the organic layers and wash sequentially with distilled water and brine and then dry (Na2SO4), filter, and concentrated to give a residue. Chromatograph the residue eluting with 8:2 hexane:EtOAc to give the title compound.

reactant | 1H-indole-6-carbaldehyde | 6.2 mmol, 0.9 g | N1C=CC2=CC=C(C=C12)C=O | C9H7NO
reactant | phenanthroline | 6.2 mmol, 1.3 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | transdibenzylidenacetone | 0.3 mmol, 0.1 g | C(C1=CC=CC=C1)=CC(=O)/C=C/C1=CC=CC=C1 | C17H14O
reactant | cesium carbonate | 7.9 mmol, 2.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodobenzene | 14.3 mmol, 1.6 ml | IC1=CC=CC=C1 | C6H5I
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ammonium chloride | [Cl-].[NH4+]
product | 1-Phenyl-1H-indole-6-carbaldehyde | C1(=CC=CC=C1)N1C=CC2=CC=C(C=C12)C=O | C15H11NO
